US06919347B2
According to Scheme 16, a solution of 3,5-dinitroaniline (1.83 g, 10 mmol) and 2,5-dimethoxytetrahydrofuran in 20 mL of HOAc was refluxed overnight. The reaction mixture was poured into water and extracted with EtOAc. The ethyl acetate layer was washed with water followed by aq NaHCO3 and brine. After drying, the solvent was removed to provide 1.52 g of 1-(3,5-dinitrophenyl)pyrrole.

reactant | 3,5-dinitroaniline | 10 mmol, 1.83 g | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
reactant | 2,5-dimethoxytetrahydrofuran | COC1OC(CC1)OC | C6H12O3
reactant | water | O | H2O
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
product | 1-(3,5-dinitrophenyl)pyrrole | 1.52 g | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])N1C=CC=C1 | C10H7N3O4
